US07622487B2
To a solution of ethyl 3-[(3-ethoxy-3-oxopropyl)amino]-2-phenylpropanoate (1.0 g) and sodium carbonate (0.72 g) in acetonitrile (2 ml), benzyl bromide (0.64 g) was added, and the reaction mixture was stirred at 75° C. for 2 hours. The reaction mixture was poured into water, and then the product was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried, and then the solvent was evaporated under reduced pressure to obtain ethyl 3-[benzyl(3-ethoxy-3-oxopropyl)amino]-2-phenylpropanoate as colorless oil (1.20 g).

reactant | ethyl 3-[(3-ethoxy-3-oxopropyl)amino]-2-phenylpropanoate | 1.0 g | C(C)OC(CCNCC(C(=O)OCC)C1=CC=CC=C1)=O | C16H23NO4
reactant | sodium carbonate | 0.72 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | benzyl bromide | 0.64 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | O | H2O
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | ethyl 3-[benzyl(3-ethoxy-3-oxopropyl)amino]-2-phenylpropanoate | 1.20 g | C(C1=CC=CC=C1)N(CC(C(=O)OCC)C1=CC=CC=C1)CCC(=O)OCC | C23H29NO4
